US03975388
a. 3-(p-Cyclohexyloxybenzoyl)propionic acid
A solution of succinic anhydride (20 g.) and phenoxycyclohexane (35.1 g.) in 1,2-dichloroethane (250 ml.) was stirred at 0°C and treated with powdered anhydrous aluminium chloride (58.2 g.) and stirring was continued for 5 hours at 0°-5°C. It was then poured carefully with stirring into ice-water (1 liter) containing concentrated hydrochloric acid (100 ml.). The organic layer was separated, washed with water and extracted with a solution of sodium hydroxide (8 g.) in water (250 ml.). The alkaline extract was adjusted to pH 4-6 by the addition of dilute hydrochloric acid to yield the product (6.8 g.), m.p. 190°-192°C after crystallisation from aqueous methanol.

reactant | succinic anhydride | 20 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | phenoxycyclohexane | 35.1 g | O(C1=CC=CC=C1)C1CCCCC1 | C12H16O
reactant | aluminium chloride | 58.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | 1,2-dichloroethane | 250 ml | ClCCCl | C2H4Cl2
product | 3-(p-Cyclohexyloxybenzoyl)propionic acid | C1(CCCCC1)OC1=CC=C(C(=O)CCC(=O)O)C=C1 | C16H20O4
